US09302988B2
Step 3: N,2-Dimethyl-2-morpholinopropan-1-amine hydrochloride (AMN-39)
4 M HCl in dioxane (0.890 mL, 3.5 mmol) was added dropwise to a solution of tert-butyl methyl(2-methyl-2-morpholinopropyl)carbamate (970 mg, max. 2.98 mmol) in dry dioxane (5 mL) under a N2 atmosphere. The mixture was stirred at room temperature for 6 h. The mixture was evaporated to dryness and the residue was stirred in Et2O overnight. The solids were filtered off, rinsed with Et2O and dried on air to yield a white solid. The solids were dissolved in dry dioxane (2 mL) and 4 M HCl in dioxane (0.890 mL, 3.5 mmol) was added. The reaction mixture was stirred at room temperature overnight. The mixture was diluted with Et2O and the solids were filtered off, which resulted in AMN-39 (453 mg, 73% over 2 steps).

reactant | HCl | 4 M | Cl | ClH
reactant | tert-butyl methyl(2-methyl-2-morpholinopropyl)carbamate | 2.98 mmol, 970 mg | CN(C(OC(C)(C)C)=O)CC(C)(N1CCOCC1)C | C14H28N2O3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
solvent | dioxane | 3.5 mmol, 0.890 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3.5 mmol, 0.890 mL | O1CCOCC1 | C4H8O2
product | N,2-Dimethyl-2-morpholinopropan-1-amine hydrochloride | Cl.CNCC(C)(N1CCOCC1)C | InChI=1S/C9H20N2O.ClH/c1-9(2,8-10-3)11-4-6-12-7-5-11;/h10H,4-8H2,1-3H3;1H
